US04153607
3.4 parts of 2-methyl-4-amino-5-thiocarbamoyl-thiazole are suspended in 50 parts of glacial acetic acid and one part of 30 percent strength by weight hydrogen peroxide is added. After stirring for 12 hours at 22° C., the product is filtered off. 1.7 parts of 3-amino-5-methyl-thiazolo-(4,5-c)-isothiazole (50% of theory) of melting point 164°-167° C. are obtained.

reactant | 2-methyl-4-amino-5-thiocarbamoyl-thiazole | CC=1SC(=C(N1)N)C(N)=S | C5H7N3S2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-amino-5-methyl-thiazolo-(4,5-c)-isothiazole | 50% | NC1=C2C(=NS1)N=C(S2)C | C5H5N3S2
